US07642264B2
2-(4-Bromo-imidazol-1-yl)-4-methyl-6-(3-methyl-4-trifluoromethyl-phenyl)-pyrimidine
The title compound was prepared from 2-chloro-4-(3-methyl-4-trifluoromethyl-phenyl)-6-methyl-pyrimidine (example A.40) (0.40 g, 1.4 mmol) and commercially available 4-bromo-imidazole (0.31 g, 2.1 mmol) according to the general procedure IVa. Obtained as a light brown solid (0.54 g, 97%). MS (ISP) 399.0 [(M+H)+]; mp 157.5° C.

reactant | 2-chloro-4-(3-methyl-4-trifluoromethyl-phenyl)-6-methyl-pyrimidine | 1.4 mmol, 0.40 g | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)C)C | C13H10ClF3N2
reactant | 4-bromo-imidazole | 2.1 mmol, 0.31 g | BrC=1N=CNC1 | C3H3BrN2
product | 2-(4-Bromo-imidazol-1-yl)-4-methyl-6-(3-methyl-4-trifluoromethyl-phenyl)-pyrimidine | BrC=1N=CN(C1)C1=NC(=CC(=N1)C)C1=CC(=C(C=C1)C(F)(F)F)C | C16H12BrF3N4
